US03974280
13.5 g (0.21 mole) of n-butyllithium in 145 ml of absolute diethyl ether is precooled to -70° to -80°. To this solution there is then added dropwise within 30 minutes, at a temperature of -70°, a solution of 42.6 g of 3-bromobenzo[b]thiophene in 250 ml of absolute diethyl ether. The solution is thereupon stirred for a further 30 minutes at -70°. An addition is then made dropwise, in the course of 30 minutes, of a solution of 23.5 g of 1-methyl-4-piperidone in 100 ml of absolute diethyl ether; the reaction temperature is held by external cooling at -70°, and the reaction solution is subsequently stirred for a further 10 hours at -70°. The reaction solution is thereupon heated to -5°, and 300 ml of water is added dropwise. The organic phase is separated, and the aqueous phase is extracted twice with 400 ml of ethyl acetate. The organic phases are combined, dried with sodium sulphate, filtered off with suction and concentrated by evaporation. The residue is dissolved in 500 ml of 2N hydrochloric acid, and the acid solution is washed with ether. The aqueous solution is then adjusted be addition by 10% sodium hydroxide solution to have a pH-value of 12, and extracted with one litre of chloroform. The chloroform solution is dried with sodium sulphate, filtered off with suction and concentrated by evaporation to obtain crude 1-methyl-4-(benzo[b]thien-3-yl)-4-piperidinol. The free base melts at 150°-151° after recrystallisation from acetone.

reactant | n-butyllithium | 0.21 mole, 13.5 g | C(CCC)[Li]
reactant | 3-bromobenzo[b]thiophene | 42.6 g | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | 1-methyl-4-piperidone | 23.5 g | CN1CCC(CC1)=O | C6H11NO
reactant | water | 300 ml | O | H2O
solvent | diethyl ether | 145 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-methyl-4-(benzo[b]thien-3-yl)-4-piperidinol | CN1CCC(CC1)(O)C=1C2=C(SC1)C=CC=C2 | C14H17NOS
